US04232016
A solution of 0.8 g. of NO2F in 13 ml. of sulfolane is saturated with BF3 at 5°-10°. This solution is added dropwise to a stirred solution of 3.03 g. of 1-methyl-3-fluoro-5-o-chlorophenyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one, obtainable from the corresponding 3-chloro compound and AgF, in 15 ml. of sulfolane at 10°-15°. The mixture is stirred for 1 hour more at 15°-25° and worked up in the customary manner to give 1-methyl-3-fluoro-5-o-chlorophenyl-7-nitro-2,3-dihydro-1H-1,4-benzodiazepin-2-one.

reactant | NO2F | [N+](=O)([O-])F | FNO2
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | BF3 | B(F)(F)F | BF3
reactant | 1-methyl-3-fluoro-5-o-chlorophenyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | CN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)Cl)F)=O | C16H12ClFN2O
product | 1-methyl-3-fluoro-5-o-chlorophenyl-7-nitro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | CN1C(C(N=C(C2=C1C=CC(=C2)[N+](=O)[O-])C2=C(C=CC=C2)Cl)F)=O | C16H11ClFN3O3
